US09278938B2
6-[Hydroxy(1-trityl-1H-imidazol-4-yl)methyl]-N-methyl-2-naphthamide (10.0 g, 19.1 mmol) and manganese dioxide (6.6 g, 75.9 mmol) were added to N,N-dimethylacetamide (85 mL), and the mixture was stirred at 60° C. for 2 hr. The insoluble material was filtered off at the same temperature, and washed with N,N-dimethylacetamide (40 mL). The filtrate and washing were combined and cooled to 40° C., water (60 mL) was added dropwise thereto, and the mixture was stirred at room temperature. The obtained crystals were collected by filtration, and washed with water (50 mL). The wet crystals were dried under reduced pressure to give crude crystals (9.5 g). Ethyl acetate (100 mL) was warmed to 40° C., and the crude crystals (9.5 g) were added thereto. The obtained mixture was warmed to 50° C., and stirred for 0.5 hr. The solvent (20 mL) was evaporated under reduced pressure. The residue was allowed to cool to room temperature, and diisopropyl ether (80 mL) was added dropwise thereto, and the mixture was stirred at the same temperature. The obtained crystals were collected by filtration, and washed with a mixed solvent (30 mL) of diisopropyl ether/ethyl acetate (1:1, volume ratio). The obtained wet crystals were dried under reduced pressure to give N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide (8.9 g, 17.1 mmol). yield 89%.

reactant | 6-[Hydroxy(1-trityl-1H-imidazol-4-yl)methyl]-N-methyl-2-naphthamide | 19.1 mmol, 10.0 g | OC(C=1C=C2C=CC(=CC2=CC1)C(=O)NC)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H29N3O2
reactant | N,N-dimethylacetamide | 85 mL | CN(C(C)=O)C | C4H9NO
catalyst | manganese dioxide | 75.9 mmol, 6.6 g | [O-2].[O-2].[Mn+4]
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide | 17.1 mmol, 8.9 g, yield 89% | CNC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H27N3O2
